US07816354B2
A solution of 2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (60 mg, 212 mmol) in N-methyl piperazine (0.5 mL) was heated at 70-75° C. for 3 h. The reaction mixture was cooled down to RT, diluted with dichloromethane (6 mL), washed with water (2×2 mL), brine (2 mL), dried over anhydrous sodium sulphate and concentrated in vacuo to yield 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxborolan-2-yl)-benzyl]-piperazine in reasonably good purity. This boronate ester was used for Suzuki coupling reaction with 3-(4-Iodo-benzyl)-5-(R)-phenyl)-oxazolidin-2-one (40 mg, 105 mmol), without any purification, as described in General Procedure (5). The desired product was isolated as a white solid (28 mg, 60%) by silica gel column chromatography. 1H NMR (300 MHz, CDCl3): δ 7.56 (m, 4H), 7.38 (m, 9H), 5.52 (t, 1H), 4.61 (d, 1H), 4.46 (d, 1H), 3.83 (t, 1H), 3.57 (s, 2H), 3.37 (dd, 1H), 2.53 (bs, 8H), 2.32 (s, 3H). (Note: where N-Boc protected piperazine was used as the base, the final product was obtained by cleaving off the Boc group using trifluoro acetic acid in dichloromethane.)

reactant | 2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 212 mmol, 60 mg | BrCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | N-methyl piperazine | 0.5 mL | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxborolan-2-yl)-benzyl]-piperazine | CN1CCN(CC1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H29BN2O2
